US09326976B2
3,5-Dichloro-4-((S)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-((S)-3-(3-(2-(3-((phenylamino)methyl)benzamido)ethylcarbamoyl)phenylsulfonyl)-thiazolidine-2-carbonyloxy)ethyl)pyridine 1-oxide (35 mg, 0.036 mmol) was dissolved in pyridine (2 ml). (R)-quinuclidin-3-yl carbonochloridate hydrochloride (described in the co-pending International Patent Application No. PCT/EP2013/075529 (published as WO 2104/086855) (8.15 mg, 0.036 mmol) was added, and the reaction was stirred at room temperature for 6 hrs to achieve completion. The reaction mixture was diluted with HCl 1N and extracted with ethyl acetate. The organic phase was washed with water, brine, dried over Na2SO4 and concentrated under vacuum. The crude was purified by preparative HPLC to give 3,5-dichloro-4-((S)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(((S)-3-((3-((2-(3-((phenyl(((R)-quinuclidin-3 yloxy)carbonyl)amino)methyl)benzamido)ethyl)carbamoyl)-phenyl)sulfonyl)thiazolidine-2-carbonyl)oxy)ethyl)pyridine 1-oxide formate (12.65 mg, 10.81 μmol, 30% yield).

reactant | 3,5-Dichloro-4-((S)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-((S)-3-(3-(2-(3-((phenylamino)methyl)benzamido)ethylcarbamoyl)phenylsulfonyl)-thiazolidine-2-carbonyloxy)ethyl)pyridine 1-oxide | 0.036 mmol, 35 mg | ClC=1C=[N+](C=C(C1C[C@H](OC(=O)[C@@H]1SCCN1S(=O)(=O)C1=CC(=CC=C1)C(NCCNC(C1=CC(=CC=C1)CNC1=CC=CC=C1)=O)=O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C45H43Cl2F2N5O9S2
reactant | (R)-quinuclidin-3-yl carbonochloridate hydrochloride | Cl.C(O[C@H]1CN2CCC1CC2)(=O)Cl
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
solvent | HCl | 1N | Cl | ClH
product | 3,5-dichloro-4-((S)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(((S)-3-((3-((2-(3-((phenyl(((R)-quinuclidin-3 yloxy)carbonyl)amino)methyl)benzamido)ethyl)carbamoyl)-phenyl)sulfonyl)thiazolidine-2-carbonyl)oxy)ethyl)pyridine 1-oxide formate | 10.81 μmol, 12.65 mg, 30% yield | C(=O)O.ClC=1C=[N+](C=C(C1C[C@H](OC(=O)[C@@H]1SCCN1S(=O)(=O)C1=CC(=CC=C1)C(NCCNC(C1=CC(=CC=C1)CN(C(=O)O[C@H]1CN2CCC1CC2)C2=CC=CC=C2)=O)=O)C2=CC(=C(C=C2)OC(F)F)OCC2CC2)Cl)[O-] | InChI=1S/C53H54Cl2F2N6O11S2.CH2O2/c54-42-29-61(68)30-43(55)41(42)27-45(36-14-15-44(73-52(56)57)46(26-36)71-32-33-12-13-33)72-51(66)50-63(22-23-75-50)76(69,70)40-11-5-8-38(25-40)49(65)59-19-18-58-48(64)37-7-4-6-34(24-37)28-62(39-9-2-1-3-10-39)53(67)74-47-31-60-20-16-35(47)17-21-60;2-1-3/h1-11,14-15,24-26,29-30,33,35,45,47,50,52H,12-13,16-23,27-28,31-32H2,(H,58,64)(H,59,65);1H,(H,2,3)/t45-,47-,50-;/m0./s1
